US05709911
First, 2.5 g of trans-4-phenylcyclohexanol, 50 ml of tetrahydrofuran, and 1.8 g of triethylamine were placed in a 100 ml flask. A solution in which 1.7 g of acryloyl chloride was dissolved in 5 ml of benzene was added dropwise to the mixture under ice water cooling. The mixture was allowed to warm to room temperature and stirred for 5 hours. Water was added to the reaction mixture, and an organic layer was extracted with ether. The ether layer was washed with water and dried over anhydrous sodium sulfate. Thereafter, the solvent was distilled away. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=10/1) and recrystallized from acetone to obtain 1.8 g of trans-4-phenylcyclohexyl acrylate (Y: 55.1%). The compound thus obtained had a purity of 99.7% by GC and 1 spot by TLC. Furthermore, the compound had an m.p. of 67.3° C.

reactant | trans-4-phenylcyclohexanol | 2.5 g | C1(=CC=CC=C1)[C@@H]1CC[C@H](CC1)O | C12H16O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | triethylamine | 1.8 g | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | acryloyl chloride | 1.7 g | C(C=C)(=O)Cl | C3H3ClO
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | trans-4-phenylcyclohexyl acrylate | 1.8 g, 55.1% | C(C=C)(=O)O[C@@H]1CC[C@H](CC1)C1=CC=CC=C1 | C15H18O2
